US08314091B2
N-tert-Butyl-3-((4-(4-(3-isoxazol-3-ylureido)benzoyl)piperazin-1-yl)methyl)benzamide
3-((4-(4-Aminobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (0.152 mmol, 60 mg) was dissolved in dichloromethane (12 mL) and a solution of 4-nitrophenyl chloroformate (0.152 mmol, 30.7 mg) in dichloromethane (20 mL) was added dropwise. The reaction was stirred for 2 hours at room temperature. Isoxazol-3-amine (1.521 mmol, 128 mg) was added and the resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum and the residue dissolved in dichloromethane. This solution was loaded onto a strong cation exchange column and washed with dichloromethane (20 mL) then methanol (20 mL). The column was then eluted with 2M ammonia in methanol (20 mL) and the eluent was concentrated under vacuum. The residue was purified by acidic reverse phase HPLC and lyophilised to give the title compound (46 mg).

reactant | 3-((4-(4-Aminobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.152 mmol, 60 mg | NC1=CC=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1 | C23H30N4O2
reactant | 4-nitrophenyl chloroformate | 0.152 mmol, 30.7 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Isoxazol-3-amine | 1.521 mmol, 128 mg | O1N=C(C=C1)N | C3H4N2O
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(4-(3-isoxazol-3-ylureido)benzoyl)piperazin-1-yl)methyl)benzamide | 46 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC=C(C=C1)NC(=O)NC1=NOC=C1)=O)=O | C27H32N6O4
